US06660744B1
Di-tert-butyl dicarbonate (0.287 g, 1.32 mmol) was added to a mixture of 3-iodo-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine dihydrochloride (0.50 g, 1.20 mmol) and sodium carbonate (0.445 g, 4.20 mmol) in dioxane (10 mL) and water (10 mL) and the reaction was stirred for 18 h. Dichloromethane (100 mL) was added and the organic layer was washed with water (30 mL) and brine (30 mL), dried (Na2SO4) and concentrated in vacuo to afford tert-butyl 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate as a light yellow solid (0.524 g, 98%); RP-HPLC 12.227 min, 100% purity (5% to 85% acetonitrile/0.1M aqueous ammonium acetate, buffered to pH 4.5, over 20 min at 1 mL/min; λ=254 nm; Deltapak C18, 300 Å, 5 μm, 150×3.9 mm column); m/z (MH+)=445.1.

reactant | Di-tert-butyl dicarbonate | 1.32 mmol, 0.287 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-iodo-1-(4-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine dihydrochloride | 1.20 mmol, 0.50 g | Cl.Cl.IC1=NN(C2=NC=NC(=C21)N)C2CCNCC2
reactant | sodium carbonate | 4.20 mmol, 0.445 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | Dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | water | 10 mL | O | H2O
product | tert-butyl 4-(4-amino-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate | 0.524 g, 98% | NC1=C2C(=NC=N1)N(N=C2I)C2CCN(CC2)C(=O)OC(C)(C)C | C15H21IN6O2
